US09388173B2
Step 1: (2,6-dichloropyridin-3-yl)methanol
To a solution of 2,6-dichloronicotinic acid (1 g, 5.2 mmol) in THF (10 mL) was added NaBH4 (591 mg, 15.6 mmol) at 0° C. The mixture was stirred for 30 min and then BF3.OEt2 (2.2 g, 15.6 mmol) was added drop wise at 0° C. After addition was complete, the mixture was stirred at room temperature for 10 hr, until the reaction was completed. The reaction mixture was quenched by the addition of saturated NH4Cl solution (50 mL) and extracted with ethyl acetate (3×30 mL). The combined organic layers were washed with brine (30 mL), dried over Na2SO4 and concentrated to give the desired product as a white solid which was used in next step without further purification. (820 mg, Yield 80%).

reactant | 2,6-dichloronicotinic acid | 5.2 mmol, 1 g | ClC1=C(C(=O)O)C=CC(=N1)Cl | C6H3Cl2NO2
reactant | NaBH4 | 15.6 mmol, 591 mg | [BH4-].[Na+]
reactant | BF3.OEt2 | 15.6 mmol, 2.2 g | B(F)(F)F.CCOCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2,6-dichloropyridin-3-yl)methanol | Yield 80% | ClC1=NC(=CC=C1CO)Cl | C6H5Cl2NO
